US07960394B2
2-{4-[(1-Cyclopentylpiperidin-4-yl)oxy]phenyl}-6-methoxy-3-methylpyrido[3,4-d]pyrimidin-4(3H)-one
The entitled compound was obtained according to the method of Example 15 but starting from 5-amino-2-methoxyisonicotinic acid, methylamine and 4-[(1-cyclopentyl-4-piperidinyl)oxy]benzaldehyde.

reactant | 5-amino-2-methoxyisonicotinic acid | NC1=CN=C(C=C1C(=O)O)OC | C7H8N2O3
reactant | methylamine | CN | CH5N
reactant | 4-[(1-cyclopentyl-4-piperidinyl)oxy]benzaldehyde | C1(CCCC1)N1CCC(CC1)OC1=CC=C(C=O)C=C1 | C17H23NO2
product | 2-{4-[(1-Cyclopentylpiperidin-4-yl)oxy]phenyl}-6-methoxy-3-methylpyrido[3,4-d]pyrimidin-4(3H)-one | C1(CCCC1)N1CCC(CC1)OC1=CC=C(C=C1)C=1N(C(C2=C(N1)C=NC(=C2)OC)=O)C | C25H30N4O3
